US08487108B2
To a solution of 1-methoxybicyclo[2.2.2]oct-5-en-2-one (16.5 g, 0.11 mol) in MeOH (250 mL) was added Raney-Ni (3.3 g). The reaction mixture was stirred at 40° C. and 45 psi under H2 atmosphere for 2-3 h (8.0 g, 40%). The resulting mixture was filtered, the filtrate was concentrated in vacuo to produce 1-methoxybicyclo[2.2.2]octan-2-one (15.0 g, 90%). 1H NMR (CDCl3, 400 MHz) δ 3.33 (s, 3H), 2.32 (d, 2H), 2.09 (m, 1H), 1.49-1.95 (m, 8H).

reactant | 1-methoxybicyclo[2.2.2]oct-5-en-2-one | 0.11 mol, 16.5 g | COC12C(CC(C=C1)CC2)=O | C9H12O2
solvent | MeOH | 250 mL | CO | CH4O
catalyst | Ni | 3.3 g | [Ni] | Ni
product | 1-methoxybicyclo[2.2.2]octan-2-one | 15.0 g, 90% | COC12C(CC(CC1)CC2)=O | C9H14O2
